US07427632B2
3-Chloro-N-[1-(2-chlorophenyl)-2-(1-ethylpiperidin-4-yl-methoxy)ethyl]-1H-indole-6-carboxamide
Using alkylation method A, 3-chloro-N-[1-(2-chloro-phenyl)-2-(piperidin-4-ylmethoxy)ethyl]-1H-indole-6-carboxamide (600 mg, 1.3 mmol) and acetaldehyde (0.4 mL, 6.7 mmol) afforded, after purification (SiO2: 10:10:1 hexane:EtOAc:isopropylamine) and recrystallization (acetonitrile), 275 mg (43%) of the title compound.

reactant | 3-chloro-N-[1-(2-chloro-phenyl)-2-(piperidin-4-ylmethoxy)ethyl]-1H-indole-6-carboxamide | 1.3 mmol, 600 mg | ClC1=CNC2=CC(=CC=C12)C(=O)NC(COCC1CCNCC1)C1=C(C=CC=C1)Cl | C23H25Cl2N3O2
reactant | acetaldehyde | 6.7 mmol, 0.4 mL | C(C)=O | C2H4O
product | 3-Chloro-N-[1-(2-chlorophenyl)-2-(1-ethylpiperidin-4-yl-methoxy)ethyl]-1H-indole-6-carboxamide | ClC1=CNC2=CC(=CC=C12)C(=O)NC(COCC1CCN(CC1)CC)C1=C(C=CC=C1)Cl | C25H29Cl2N3O2
